### PR TITLE
Bump stdpp and iris

### PR DESCRIPTION
**Pull request by rlepigre-skylabs-ai**

### CODE REVIEW

File: rocq-skylabs-iris/theories/wp_io/lang.v [hunk 1]
```diff
@@ -143,7 +144,7 @@ Module Compose.
   Proof. by inversion 1. Qed.
   #[global] Instance forward_inj_2 {cfg : config} (c : cfg.(name)) :
     Inj (=) (=) (@Forward cfg c).
-  Proof. intros ???. by simplify_eq. Qed.
+  Proof. intros e1 e2 Heq. by dependent destruction Heq. Qed.
```
Comment (rlepigre-skylabs-ai) [inline rocq-skylabs-iris/theories/wp_io/lang.v:147]: Seems like there might be an issue with https://gitlab.mpi-sws.org/iris/stdpp/-/commit/8ac895ec69cb74e5730f791711ded41bcd637666.

File: rocq-skylabs-prelude/theories/sets.v [hunk 2]
```diff
@@ -79,17 +79,24 @@ End semi_set.
...
 
   #[local] Set Default Proof Using "Type*".
 
   (* Named after [union_empty_l] (+ missing [top_set_] prefix) *)
   #[global] Instance top_set_intersection_top_l : LeftId (≡@{C}) ⊤ (∩).
-  Proof. intros ?. set_solver. Qed.
+  Proof.
+    intros X. apply set_equiv=>x. rewrite elem_of_intersection.
+    split; [naive_solver|]. intros HX. split; [|exact HX]. by apply elem_of_top'.
+  Qed.
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-prelude/theories/sets.v]: Unsure if we care but "fishy". Worth root causing the regression.

File: rocq-skylabs-iris/theories/wp_io/refinement/adequacy.v [hunk 3]
```diff
@@ -81,8 +81,14 @@ Section with_lang.
     iIntros (Hinv).
     (* extracting user's WP proof *)
     iMod (Hwp Hinv) as (s_init INIT) "WP".
-    (* setting up ghost state for refinement *)
-    iMod (root.trace_refine_alloc R s_init INIT) as (γ_abs) "[F RT]".
+    (* setting up ghost state for refinement; manually convert the bupd to
+       fupd to avoid TC unification issues with [BiBUpdFUpd] (the [BiBUpd]
+       in the goal comes via the [Ghostly] projection, which evarconv won't
+       unify with the canonical [uPred_bi_bupd]). *)
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-iris/theories/wp_io/refinement/adequacy.v:87]: I see. Seems annoying tho.

File: rocq-skylabs-iris/theories/proofmode/own_obs.v [hunk 4]
```diff
@@ -51,11 +51,19 @@ with just [%Hv] and then manually [apply excl_auth_frac_op_inv_L in
 Hv]. We know how to fix [iDestruct], and will report the bug upstream.
 *)
 
+(* Re-declare the project's [✓] notation last so it overrides Iris's
+   [internal_cmra_valid] notation in [bi_scope]. Same for [≼]. *)
+Notation "✓ x" := (bi_cmra_valid x) (at level 20) : bi_scope.
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-iris/theories/proofmode/own_obs.v]: I'm surely missing something, but I was hoping we'd hopefully delete our notions and let Iris take over. We're both trying to make thess notations bi-polymorphic.

File: rocq-skylabs-brick/theories/lang/cpp/logic/cptr.v [hunk 5]
```diff
@@ -105,31 +105,41 @@ Section defs.
...
+  Qed.
   Lemma fs_equivI_type P Q :
     P ≡ Q ⊢@{mpredI} [| type_of_spec P = type_of_spec Q |].
   Proof.
-    rewrite only_provable_equiv.
-    constructor => ?.
-    rewrite monPred_at_internal_eq monPred_at_and monPred_at_emp monPred_at_pure.
-    repeat uPred.unseal. constructor => n x ?. by intros [? _].
+    iIntros "Heq". iDestruct (fs_equivI_type_pure with "Heq") as %?.
+    by iApply only_provable_intro.
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/logic/cptr.v]: Awkward proof change

File: rocq-skylabs-iris/theories/algebra/monoid.v [hunk 6]
```diff
@@ -38,22 +38,22 @@ End monoid_instances.
 
 (** Powers *)
 
-Definition power `{Monoid M o} (x : M) (n : N) : M := N.iter n (o x) monoid_unit.
-#[global] Arguments power {_ _} o {_} _ !_ / : assert.
+Definition power `{MonoidOps M o u} (x : M) (n : N) : M := N.iter n (o x) u.
+#[global] Arguments power {_} o u {_} _ !_ / : assert.
 #[global] Instance: Params (@power) 4 := {}.
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-iris/theories/algebra/monoid.v:43]: Params instances need updating if we change the arity, otherwise the Proper instances won't be found at all. Best to tell the agent, so it undoes any workarounds.

**Review by pgiarrusso-sl — COMMENTED** [review]
Initial pass

File: rocq-skylabs-iris/theories/wp_io/refinement/adequacy.v (hunk 3 above)
Comment (pgiarrusso-sl) [reply rocq-skylabs-iris/theories/wp_io/refinement/adequacy.v:87]: Got a fix!

File: rocq-skylabs-iris/theories/algebra/monoid.v (hunk 6 above)
Comment (pgiarrusso-sl) [reply rocq-skylabs-iris/theories/algebra/monoid.v:43]: Nevermind, the new arity still gives `4`.

File: rocq-skylabs-brick/theories/lang/cpp/logic/cptr.v (hunk 5 above)
Comment (pgiarrusso-sl) [reply rocq-skylabs-brick/theories/lang/cpp/logic/cptr.v]: Undone and cleaned up.

File: rocq-skylabs-iris/theories/wp_io/refinement/adequacy.v [hunk 7]
```diff
@@ -81,8 +81,13 @@ Section with_lang.
...
+    Fail iMod (root.trace_refine_alloc (PROP := iProp _) R s_init INIT).
+    Succeed iMod (root.trace_refine_alloc (Ghostly0 := iprop_ghostly) R s_init INIT).
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-iris/theories/wp_io/refinement/adequacy.v:89]: We shouldn't merge these two lines, but I pushed them to show what was going on.
```suggestion
```

File: rocq-skylabs-iris/theories/proofmode/own_obs.v (hunk 4 above)
Comment (pgiarrusso-sl) [reply rocq-skylabs-iris/theories/proofmode/own_obs.v]: Preexisting, but addressing this.

File: rocq-skylabs-iris/theories/bi/own.v [hunk 8]
```diff
@@ -27,51 +27,28 @@
...
 
-#[global] Hint Opaque bi_cmra_valid : typeclass_instances.
-(** Mark it TC opaque; otherwise, TC resolution can prove anew, e.g.,
-[Persistent (✓ a)] and tactics like [iDestruct (own_valid_2 with "A
-B") as "#Hv"] produce [embed (si_cmra_valid (a ⋅ b))] rather than [✓
-(a ⋅ b)]. (We might also wind up wanting "simpl never".) *)
+(* Validity for arbitrary PROP, assuming an embedding of siProp.
+  This subsumes uPred_cmra_valid. *)
+#[deprecated(since="", note="Use internal_cmra_valid or ✓")]
+Notation bi_cmra_valid := internal_cmra_valid (only parsing).
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-iris/theories/bi/own.v:51]: Remove

File: rocq-skylabs-iris/theories/bi/includedI.v [hunk 9]
```diff
@@ -17,56 +17,30 @@ step indices and the latter holds at a specific step index.
 
 TODO: upstream to Iris.
 *)
-Definition includedI `{!BiInternalEq PROP} {A : cmra} (a b : A) : PROP :=
-  (∃ c : A, b ≡ a ⋅ c)%I.
-#[global] Instance: Params (@includedI) 3 := {}.
-
-Infix "≼" := includedI : bi_scope.
-Notation "(≼)" := includedI (only parsing) : bi_scope.
+Notation includedI := internal_included (only parsing).
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-iris/theories/bi/includedI.v:20]: Remove.

File: rocq-skylabs-iris/theories/bi/embedding.v
Comment (pgiarrusso-sl) [inline rocq-skylabs-iris/theories/bi/embedding.v:9]: Consider removing.

File: rocq-skylabs-iris/theories/base_logic/iprop_own.v [hunk 10]
```diff
@@ -86,20 +85,17 @@ Section si_embedding.
   #[global] Instance si_embed_later : BiEmbedLater siPropI PROP.
   Proof. intros P. constructor=>-[]; by repeat unseal. Qed.
 
-  #[global] Instance si_embed_internal_eq : BiEmbedInternalEq siPropI PROP.
-  Proof. intros A x y. unseal'. by repeat unseal. Qed.
+  Lemma si_embed_eq_si_pure (P : siProp) : (⎡P⎤ : PROP) ⊣⊢ <si_pure> P.
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-iris/theories/base_logic/iprop_own.v:88]: Remove?

File: rocq-skylabs-iris/theories/base_logic/iprop_invariants.v [hunk 11]
```diff
@@ -89,9 +90,16 @@ End na_inv.
 (*** Cancelable invariants for iProp *)
 (* Copy from
   https://gitlab.mpi-sws.org/iris/iris/-/blob/7ccdfe0df5832b69742306302144b5358c9ed843/iris/base_logic/lib/cancelable_invariants.v *)
+
+(** Old-style frac-only cinvG, kept for this project's generic cancelable
+invariant interface (which uses [HasOwn PROP fracR]). *)
+Class cinvFracG Σ := {
+  #[local] cinv_frac_inG :: inG Σ fracR
+}.
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-iris/theories/base_logic/iprop_invariants.v:98]: revisit this weird construction.

File: rocq-skylabs-brick/theories/lang/cpp/logic/cptr.v [hunk 12]
```diff
@@ -105,43 +105,33 @@ Section defs.
...
+  Lemma fs_equiv_unfold P Q `{Sbi PROP} :
+    P ≡ Q ⊣⊢@{PROP}
+    ⌜ type_of_spec P = type_of_spec Q ⌝ ∗ P.(fs_spec) ≡ Q.(fs_spec).
   Proof.
-    rewrite only_provable_equiv.
-    constructor => ?.
-    rewrite monPred_at_internal_eq monPred_at_and monPred_at_emp monPred_at_pure.
-    repeat uPred.unseal. constructor => n x ?. by intros [? _].
+    rewrite /internal_eq -si_pure_pure. rewrite -si_pure_and_sep; f_equiv.
+    by siProp.unseal.
```
Comment (pgiarrusso-sl) [inline rocq-skylabs-brick/theories/lang/cpp/logic/cptr.v:115]: Use `sbi_unfold`?
